US08865911B2
2-Chloro-4-(prop-1-ynyl)pyridine
4-Bromo-2-chloropyridine (1.00 g, 5.20 mmol), 1-(trimethylsilyl)-1-propyne (0.846 mL, 5.72 mmol), copper(I) iodide (99 mg, 0.52 mmol), and tetrakis(triphenylphosphine)palladium(0) (90 mg, 0.08 mmol) were taken up in toluene (14 mL) in a microwave vial. Tetra-N-butylammonium fluoride (1M in THF) (6 mL, 6.00 mmol) was added and the reaction vessel was sealed and heated at 100° C. for 20 min in a microwave reactor. After cooling, the mixture was filtered through diatomaceous earth, and then concentrated in vacuo. The product was purified by flash chromatography using a gradient of EtOAc in heptane (0-50%) to give the title compound (530 mg, 67% yield): 1H NMR (500 MHz, DMSO-d6) δ ppm 2.11 (s, 3 H), 7.38 (dd, 1 H), 7.51 (s, 1H), 8.37 (d, 1 H); MS (ES+) m/z 152 [M+H]+.

reactant | 4-Bromo-2-chloropyridine | 5.20 mmol, 1.00 g | BrC1=CC(=NC=C1)Cl | C5H3BrClN
reactant | 1-(trimethylsilyl)-1-propyne | 5.72 mmol, 0.846 mL | C[Si](C#CC)(C)C | C6H12Si
reactant | Tetra-N-butylammonium fluoride | 6.00 mmol, 1M, 6 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | toluene | 14 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.52 mmol, 99 mg | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.08 mmol, 90 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Chloro-4-(prop-1-ynyl)pyridine | 530 mg, 67% yield | ClC1=NC=CC(=C1)C#CC | C8H6ClN
